US05750696
(4S,5S)-5-allyl-3-benzyloxycarbonyl-4-cyclohexylmethyl-2,2-dimethyl-1,3-oxazolidine
2-Methoxypropene (0.64 ml) and PPTS (834 mg) were added to a solution of the compound (2.2 g) obtained in Production Example 1 in dichloromethane, and the mixture was stirred at room temperature for 1 hour. After adding powdery NaHCO3, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. Water was added to the residue and the mixture was extracted with diethyl ether. The organic layer was washed with water and saturated brine and dried over MgSO4. The solvent was distilled away under reduced pressure and the residue was purified by silica gel column chromatography (eluted with AcOEt/Hex=5/95 v/v) to give 1.3 g of a colorless, oily title compound (see Table 1).

reactant | 2-Methoxypropene | 0.64 ml | COC(=C)C | C4H8O
reactant | PPTS | 834 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4S,5S)-5-allyl-3-benzyloxycarbonyl-4-cyclohexylmethyl-2,2-dimethyl-1,3-oxazolidine | C(C=C)[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OCC1=CC=CC=C1)CC1CCCCC1 | C23H33NO3
